US05198451
A solution of n-butyllithium in hexanes (16 ml, 2.5 M) was added dropwise under a nitrogen atmosphere to dry ethylene glycol (40 ml) at 10° C. When addition was complete the mixture was stirred for 0.5 h at room temperature. 3-Bromo-1-phenyl-1-(3-(trifluoromethyl)phenyl)-1-propene (12.0 g, 35 mmol, prepared similarly to the method described in Example 23) was added and the reaction mixture was stirred at room temperature for 72 h. The mixture was poured into water (300 ml) and extracted with ethyl acetate (2×100 ml). The combined organic extracts was dried over sodium sulphate and the solvent evaporated in vacuo. Flash chromatography of the residue on silica gel (150 g) using a mixture of cyclohexane and ethyl acetate (7:3) as eluent provided 5.9 g (52%) of 2-(3-phenyl-3-(3-(trifluoromethyl)phenyl)-2-propen-1-yloxy)ethanol. 2-(3-phenyl-3-(3-(trifluoromethyl)phenyl)-2-propen-1-yloxy) ethanol (5.0 g, 15.5 mmol) was dissolved into dry dioxan (80 ml) and stirred under an atmosphere of hydrogen for 18 h at room temperature in the presence of 10% palladium on carbon catalyst (50% aqueous paste) and then filtered. The filtrate was evaporated in vacuo to give 4.0 g (95%) of 2-(3-phenyl-3-(3-trifluoromethyl)phenyl)-1-propyloxy)ethanol. 1H NMR (CDCl3)δ 4.20 (t, 1H).

reactant | n-butyllithium | C(CCC)[Li]
reactant | ethylene glycol | 40 ml | C(CO)O | C2H6O2
reactant | 3-Bromo-1-phenyl-1-(3-(trifluoromethyl)phenyl)-1-propene | BrCC=C(C1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C16H12BrF3
solvent | water | 300 ml | O | H2O
product | 2-(3-phenyl-3-(3-(trifluoromethyl)phenyl)-2-propen-1-yloxy)ethanol | 5.9 g, 52% | C1(=CC=CC=C1)C(=CCOCCO)C1=CC(=CC=C1)C(F)(F)F | C18H17F3O2
